US05969138
(2) Preparation of 1-tert-butoxycarbonyl-4-(2-(2-propynyl)ethyl)piperazine
To a refluxing solution of 1.67 g of sodium hydride in 20 mL of tetrahydrofuran was added dropwise a solution of 9.00 g of 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperazine in 15 mL of tetrahydrofuran and then 5.63 g of propargyl bromide was added dropwise to the resultant mixture. After completion of the reaction, the mixture was concentrated, poured into ice-water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and evaporated to give 10.70 g of the title compound.

reactant | sodium hydride | 1.67 g | [H-].[Na+]
reactant | 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperazine | 9.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCO | C11H22N2O3
reactant | propargyl bromide | 5.63 g | C(C#C)Br | C3H3Br
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonyl-4-(2-(2-propynyl)ethyl)piperazine | 10.70 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCC#C | C14H24N2O2
